US07625932B2
Preparation of 5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazole
Add 5-(4-bromo-phenyl)-oxazole (0.25 g, 1.116 mmol), bis(pinacolato)diboron (0.312 g, 1.227 mmol), [1,1-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) (0.182 g, 0.223 mmol), potassium acetate (0.329 g, 3.348 mmol) in 3 ml of DMF, and heat at 100° C. under nitrogen for over night. Stop reaction and let the mixture cool down to room temperature. Partition the mixture between ethyl acetate and brine. Separate the aqueous layer, extract with ethyl acetate once. Combine organic and wash with brine three times, dry over sodium sulfate, filter, and concentrate under reduced pressure. Purify the crude residue using flash chromatography eluting with 30% ethyl acetate in hexane to give 0.276 g title compound (91%). Mass spectrum (m/e) 272.3 (M+1).

reactant | 5-(4-bromo-phenyl)-oxazole | 1.116 mmol, 0.25 g | BrC1=CC=C(C=C1)C1=CN=CO1 | C9H6BrNO
reactant | bis(pinacolato)diboron | 1.227 mmol, 0.312 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.348 mmol, 0.329 g | C(C)(=O)[O-].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | [1,1-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | 0.223 mmol, 0.182 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazole | 0.276 g, 91% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CN=CO1)C | C15H18BNO3
